US05075319
Potassium carbonate (30 g) was added to a stirred solution/suspension of 31.65 g ethyl 2-(4-bromo-2,3,5,6-tetrafluorobenzoyl)-3-cyclopropylaminopropenoate in 300 ml dimethylformamide. The mixture was heated at 150° C. for 1.5 hours, then cooled, poured into water and extracted with methylene dichloride. The extract was washed with water and sodium chloride solution, dried (magnesium sulfate) and concentrated. The residue was recrystallized from acetonitrile to give 19.3 g (64%) ethyl 7-bromo-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, m.p. 187°-189° C.

reactant | Potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(4-bromo-2,3,5,6-tetrafluorobenzoyl)-3-cyclopropylaminopropenoate | 31.65 g | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=C1F)F)F)F | C15H12BrF4NO3
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 7-bromo-1-cyclopropyl-5,6,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 19.3 g, 64% | BrC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)F)F | C15H11BrF3NO3
